Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:5]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-6.76811685732
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.81166192953
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4],0.712749087889
[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.16763064498
[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:3][H:4].[H:1][C:2]([H:5])[C:6]#[C:7][H:8],4.28111362049
[H:1][O:2][C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.87927987052
[H:8].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.90961717898
[O:1].[O:2]=[C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])[H:5],-0.446803809999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],0.64987863264
[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.2591858849
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.2539128433700002
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5],6.29650740982
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[H:9].[H:5],1.6894246375600002
[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.37905126841
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.4366031030000002
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.87380684725
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])[H:6])[C@@:10]([C:7]([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15],3.37646313616
[H:9].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.93573802977
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12],4.81872112389
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2],5.91926616835
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],5.01789305603
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:9],1.77605440211
[H:1][C:2]([H:3])=[C:4].[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.56025013211
[H:1][O:2][C:3](=[O:4])[C:9]([C:6]([C:5])([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1[O:4][C:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.5971341088300001
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10](=[O:9])[H:11]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11],1.61556363569
[O:1]=[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.19799480472
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-6.8570488586800025
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.93841223146
